US08003639B2
(a) 1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[d]azepine
8.0 g (37 mmol) 2-chloro-N-(2-phenylethyl)-propanamide and 15 g (112 mmol) aluminium trichloride are carefully mixed at 90° C. and heated to 150° C. for 6 h. The mixture is diluted with water and methanol and extracted with EtOAc. The combined organic phases are dried with Na2SO4, concentrated i. vac. and purified by chromatography.

reactant | 2-chloro-N-(2-phenylethyl)-propanamide | 37 mmol, 8.0 g | ClC(C(=O)NCCC1=CC=CC=C1)C | C11H14ClNO
reactant | aluminium trichloride | 112 mmol, 15 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[d]azepine | CC1C(NCCC2=C1C=CC=C2)=O | C11H13NO
